US09107916B2
B. 2-[5-[(4-fluoro-2-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (4-fluoro-2-methylphenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 2.38 (3H, s), 5.17 (2H, s), 5.78 (1H, d, J=1.6 Hz), 6.89-6.95 (2H, m), 7.34-7.39 (2H, m), 7.58 (1H, d, J=2.4 Hz), 7.98 (1H, s), 8.67 (1H, d, J=5.2 Hz). [M+H] Calc'd for C17H13FN4O, 309. Found, 309.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (4-fluoro-2-methylphenyl)methanol | FC1=CC(=C(C=C1)CO)C | C8H9FO
product | 2-[5-[(4-fluoro-2-methylphenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | FC1=CC(=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)C | C17H13FN4O
